.subckt cascode_current_mirror iref out vss
XREFLOW refmid refmid vss vss sg13_lv_nmos W=4u L=0.5u ng=1 m=1
XREFHIGH iref iref refmid vss sg13_lv_nmos W=4u L=0.5u ng=1 m=1
XOUTLOW outmid refmid vss vss sg13_lv_nmos W=2u L=0.5u ng=1 m=1
XOUTHIGH out iref outmid vss sg13_lv_nmos W=2u L=0.5u ng=1 m=1
.ends cascode_current_mirror
