.subckt cascode_gain_stage in out bias vdd vss
XIN mid in vss vss sg13_lv_nmos W=2u L=0.5u ng=1 m=1
XCAS out vss mid vss sg13_lv_nmos W=2u L=0.5u ng=1 m=1
RLOAD vdd out 20k
.ends cascode_gain_stage
