.lib ${pdk_root}/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_${corner}
.include submission.spice
.temp ${temperature}
VDD vdd 0 1.2
VINP inp 0 0.7
VINN inn 0 0.7
VTAIL tail 0 0
RLP vdd outp 20k
RLN vdd outn 20k
XDUT inp inn outp outn tail 0 common_centroid_pair
.control
op
let output_common_mode=(v(outp)+v(outn))/2
let output_imbalance=abs(v(outp)-v(outn))
let supply_current=abs(i(VDD))
echo output_common_mode $$&output_common_mode > results.data
echo output_imbalance $$&output_imbalance >> results.data
echo supply_current $$&supply_current >> results.data
quit
.endc
.end
