.lib ${pdk_root}/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_${corner}
.include submission.spice
.temp ${temperature}
VDD vdd 0 1.2
VIN in 0 0.6 AC 1
XDUT in out vdd 0 low_noise_front_end
.control
op
let output_voltage=v(out)
let supply_current=abs(i(VDD))
echo output_voltage $$&output_voltage > results.data
echo supply_current $$&supply_current >> results.data
quit
.endc
.end
