.subckt ptat_current_reference vdd vss out
XPL left right vdd vdd sg13_lv_pmos W=20u L=1u ng=4 m=1
XPR right right vdd vdd sg13_lv_pmos W=20u L=1u ng=4 m=1
XQL left left vss vss npn13G2 Nx=1
XQR right right emit vss npn13G2 Nx=1
RPTAT emit vss 30k
XPOUT out right vdd vdd sg13_lv_pmos W=20u L=1u ng=4 m=1
RSTART vdd right 10meg
.ends ptat_current_reference
