.subckt two_stage_op_amp inp inn out vdd vss
XINP n1 inp tail vss sg13_lv_nmos W=6u L=0.5u ng=1 m=1
XINN first inn tail vss sg13_lv_nmos W=6u L=0.5u ng=1 m=1
XLP n1 n1 vdd vdd sg13_lv_pmos W=12u L=0.5u ng=1 m=1
XLN first n1 vdd vdd sg13_lv_pmos W=12u L=0.5u ng=1 m=1
XSECOND out first vss vss sg13_lv_nmos W=20u L=0.5u ng=1 m=1
RLOAD vdd out 20k
RTAIL tail vss 8k
CC first out 1p
.ends two_stage_op_amp
